US04488995
(B) (11β,17β)-11-(Acetyloxy)-9-fluoro-17-[(methylthio)methoxy]androsta-1,4-dien-3-one
To a solution of (11β,17β)-11-(acetyloxy)-9-fluoro-17-hydroxyandrosta-1,4-dien-3-one (1.6 g, 4.42 mmole) in dry dimethylsulfoxide (30 ml), acetic acid (10 ml) and acetic anhydride (20 ml) were added. The starting steroid disappeared in 20 hours. The mixture was added into water and was extracted with chloroform (3×100 ml). The chloroform extracts were combined, washed with dilute brine and water, dried (anhydrous magnesium sulfate) and was evaporated in vacuo. The residue was dissolved in chloroform-hexane (1:1) and was absorbed on a column of silica gel (45 g). Elutions of the column successively with the same solvent mixture, chloroform and chloroform-ethyl acetate mixtures (2,3,5 and 10% ethyl acetate) gave (i) the homogeneous (tlc) title compound (1.1 g), (ii) a mixture of the 17α-isomer of the title compound and (11β)-11-(acetyloxy)-9-fluoroandrosta-1,4-dien-3,17-dione (300 mg), and (iii) (11β)-11-(acetyloxy)-9-fluoroandrosta-1,4-dien-3,17-dione (280 mg).

reactant | (11β,17β)-11-(acetyloxy)-9-fluoro-17-hydroxyandrosta-1,4-dien-3-one | 4.42 mmole, 1.6 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)=O)C)F | C21H27FO4
reactant | water | O | H2O
reactant | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (11β,17β)-11-(Acetyloxy)-9-fluoro-17-[(methylthio)methoxy]androsta-1,4-dien-3-one | 1.1 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)OCSC)=O)C)F | C23H31FO4S
